US07714161B2
9. Preparation of 3,5-diacetoxy-4′-hydroxy stilbene
A solution of 3,5-diacetoxy-4′-chloroacetoxy stilbene (0.388 g, 1 mmol) in 50% aqueous pyridine, which was adjusted to pH 6.7 with hydrochloric acid, was stirred for 6 h at room temperature. The mixture was concentrated and diluted with EtOAc. The mixture was washed with 1 N aqueous HCl, saturated NaHCO3 and water. Then the EtOAc solution was dried and concentrated. After purification by radial chromatography, the product (0.28 g, 90%) was obtained. Data are: 1H NMR (Aceton-d6, 300 MHz) δ 8.55 (bs, 1H), 7.47 (m, 2H), 7.25-7.00 (m, 4H), 6.86 (m, 2H), 6.82 (t, 1H, J=2.1 Hz), 2.27 (s, 3H); 13C NMR (Aceton-d6, 75 MHz) δ 169.5, 158.7, 152.7, 141.2, 131.4, 129.5, 129.2, 124.8, 117.5, 116.6, 115.1, 21.0; HRMS (EI+) found 312.0993 M+, calcd 312.0998 for C18H16O5.

reactant | 3,5-diacetoxy-4′-chloroacetoxy stilbene | 1 mmol, 0.388 g | C(C)(=O)OC=1C=C(C=C(C1)OC(C)=O)C=CC1=CC=C(C=C1)OC(CCl)=O | C20H17ClO6
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3,5-diacetoxy-4′-hydroxy stilbene | 0.28 g, 90% | C(C)(=O)OC=1C=C(C=C(C1)OC(C)=O)C=CC1=CC=C(C=C1)O | C18H16O5
